US06544985B2
(RS)-[5-Dimethylamino-4-fluoro-2-(3-oxo-3-{3-[3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-dimethylamino-4-fluoro-phenyl)-carbamic acid tert.-butyl ester (Example J13) (269 mg, 1.0 mmol) and (RS)-3-oxo-3-{3-[3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-propionic acid tert.-butyl ester (Example K12) (401 mg, 1.0 mmol) according to the general procedure M. Obtained as a yellow amorphous substance (360 mg).

reactant | (2-amino-5-dimethylamino-4-fluoro-phenyl)-carbamic acid tert.-butyl ester | 1.0 mmol, 269 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)F)N)=O | C13H20FN3O2
reactant | (RS)-3-oxo-3-{3-[3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-propionic acid tert.-butyl ester | 1.0 mmol, 401 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC(=NO1)COC1OCCCC1)=O)=O | C22H27NO6
product | (RS)-[5-Dimethylamino-4-fluoro-2-(3-oxo-3-{3-[3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NO1)COC1OCCCC1)=O)=O)=O | C31H37FN4O7
